US08912169B2
Step 2: Synthesis of [4-(2-tert-Butoxycarbonylamino-ethylamino)-1-hydroxy-cyclohexyl]-acetic acid benzyl ester
Titanium ethoxide (0.47 mL, 2.24 mmol) was added to a solution of (1-Hydroxy-4-oxo-cyclohexyl)-acetic acid benzyl ester (1.22 g, 4.65 mmol) and 2-(Boc-amino)ethylamine (0.97 g, 6.05 mmol) in DCM (5.0 mL) under argon. The reaction was stirred at RT for 5 hr. The reaction was concentrated in vacuo. The residue was diluted with methanol (23 mL) under argon and cooled to −78° C. Sodium triacetoxyborohydride (1.49 g, 7.03 mmol) was added in one portion and the reaction allowed to slowly warm to RT overnight. The reaction was quenched with 10% Na2CO3 and extracted with ethyl acetate (2×). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The crude product was carried forward without purification. ESI-MS m/z 407 (MH)+.

reactant | (1-Hydroxy-4-oxo-cyclohexyl)-acetic acid benzyl ester | 4.65 mmol, 1.22 g | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)=O)O)=O | C15H18O4
reactant | 2-(Boc-amino)ethylamine | 6.05 mmol, 0.97 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
reactant | Sodium triacetoxyborohydride | 7.03 mmol, 1.49 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
catalyst | Titanium ethoxide | 2.24 mmol, 0.47 mL | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | [4-(2-tert-Butoxycarbonylamino-ethylamino)-1-hydroxy-cyclohexyl]-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1(CCC(CC1)NCCNC(=O)OC(C)(C)C)O)=O | C22H34N2O5
